US04967031
A solution of α-cyclopropylstyrene (5 microliters, 0.033 mmol) and (C5H5)(CO)3MoH (24 mg, 0.097 mmole) in dichloromethane-d2 was treated at room temperature with CF3SO3H (3 microliters, 0.034 mmol). A color change indicated an immediate reaction and an 1H NMR after 5 minutes showed that α-cyclopropyl-ethylbenzene (58% yield) was the major product. This indicates that hydrogenation of the carbon-carbon double bond is favored over cleavage of the cyclopropyl group. Additional CF3SO3H (5 microliters, 0.056 mmol) was added. NMR after one hour showed the major product to be 2-phenylpentane (Ca 57%). Two other products, 3-phenylpentane and β-methyl-butylbenzene, were observed in approximate yields of 14% and 7% respectively. These two products are formed due to rearrangement of the intermediate carbocation which is formed from the reaction of CF3SO3H with α-cyclopropyl-ethylbenzene.

reactant | α-cyclopropylstyrene | 0.033 mmol, 5 microliters | C1(CC1)C(=C)C1=CC=CC=C1 | C11H12
reactant | CF3SO3H | 0.034 mmol, 3 microliters | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
product | α-cyclopropyl-ethylbenzene | 58% yield | C1(CC1)C(C)C1=CC=CC=C1 | C11H14
